* source TPS63020_TRANS
C_C4         0 VIN  10u  
C_C7         0 VOUT  22u  
L_L1         L1 L2  1.5u  
R_R2         0 FB  180k  
C_C10         0 VIN  10u  
C_C3         0 EN  100n  
C_C5         0 VOUT  22u  
R_R8         PG VOUT  1MEG  
R_R1         FB VOUT  1MEG  
C_C6         0 VOUT  22u  
V_Bateria         VIN 0 3.7
X_U1         L1 VIN EN EN EN 0 0 PG FB VOUT L2 TPS63020_TRANS
